US08431575B2
To a solution of 1-{5-[3-butyl-6-(piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-phenyl}-ethanone dihydrochloride (50 mg, 0.095 mmol) in dichloromethane (2.0 mL) was added formaldehyde solution in water (37%, 0.2 mL), and 0.1 mL of acetic acid. Then sodium triacetoxyborohydride (200 mg) was added. And the mixture was stirred at room temperature for 10 min then condensed. It was then diluted with water/DCM, neutralized with sat NaHCO3 powder, organic layer was separated washed with water, brine and dried (Na2SO4). The solvent was removed in vacuo and the residue was purified by column chromatography using 5% methanolic solution of ammonia (2.0 M ammonia in methanol) in DCM to provide 1-{5-[3-Butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-phenyl}-ethanone (30 mg). This compound was dissolved in DCM (2.0 mL) and 1.0 mL of 4.0 M HCl in dioxane was added. Solvents were evaporated resulting solid was washed with ether and dried to provide the title compound (33 mg). LCMS: m/z 467 [M+1]. 1H NMR (400 MHz, CD3OD) 7.94 (1H, s), 7.83-7.87 (1H, m), 7.68-7.74 (1H, m), 7.39 (1H, t), 5.35-5.43 (1H, m), 4.65-4.71 (1H, m), 3.65 (1H, d), 3.38-3.50 (2H, m), 3.28-3.30 (2H, m), 3.09-3.14 (2H, m), 2.84 (3H, s), 2.67 (3H, s), 2.5 (1H, d), 2.41 (1H, d), 2.24-2.31 (1H, m), 2.05-2.13 (2H, m), 1.80-1.84 (2H, m) 1.64-1.72 (3H, m), 1.51-1.56 (4H, m), 1.28-1.34 (3H, m), 0.83 (3H, t).

reactant | 1-{5-[3-butyl-6-(piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-phenyl}-ethanone dihydrochloride | 0.095 mmol, 50 mg | Cl.Cl.C(CCC)C=1N=NC(=CC1C=1C=CC(=C(C1)C(C)=O)OC1CCCCC1)OC1CCNCC1
reactant | formaldehyde | C=O | CH2O
reactant | sodium triacetoxyborohydride | 200 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | water | 0.2 mL | O | H2O
solvent | water DCM | O.C(Cl)Cl
solvent | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
product | 1-{5-[3-Butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-phenyl}-ethanone | 30 mg | C(CCC)C=1N=NC(=CC1C=1C=CC(=C(C1)C(C)=O)OC1CCCCC1)OC1CCN(CC1)C | C28H39N3O3
